US03997669
The starting material is prepared as follows: The mixture of 89.6 g ethyl 4-aminophenylacetate, 400 g ethyl acrylate and 100 ml acetic acid is refluxed for 19 hours and concentrated in vacuo. The concentrate is poured onto 500 ml ice water, the mixture made basic with aqueous sodium hydroxide and extracted with diethyl ether. The extract is dried, filtered, evaporated, the residue distilled and the fraction boiling at 211°-213°/0.6 mm Hg collected, to yield the ethyl 4-(bis-carbethoxyethylamino)-phenylacetate.

reactant | ethyl 4-aminophenylacetate | 89.6 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | ethyl acrylate | 400 g | C(C=C)(=O)OCC | C5H8O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | ethyl 4-(bis-carbethoxyethylamino)-phenylacetate | C(=O)(OCC)CCN(C1=CC=C(C=C1)CC(=O)OCC)CCC(=O)OCC | C20H29NO6
